US05560814
Preparation of 2-(N,N-dimethylcarbamoylmethyl)thiouronium chloride
Example 1 was repeated with thiourea and 2-chloro-N,N-dimethylacetamide, affording the title compound ina yield of 89%.

reactant | thiourea | NC(=S)N | CH4N2S
reactant | 2-chloro-N,N-dimethylacetamide | ClCC(=O)N(C)C | C4H8ClNO
product | 2-(N,N-dimethylcarbamoylmethyl)thiouronium chloride | yield of 89% | [Cl-].CN(C(=O)CSC(=[NH2+])N)C | InChI=1S/C5H11N3OS.ClH/c1-8(2)4(9)3-10-5(6)7;/h3H2,1-2H3,(H3,6,7);1H
